US05242945
To a stirring solution of 224 mg (1.89 mmol) of thiotetronic acid in 10 mL of dimethylformamide is added 290 μL (2.08 mmol) of triethylamine and 77 mg (631 μmol) of 4-dimethylaminopyridine at 0° C. Next, 440 mg (2.29 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 530 mg (2.32 mmol) of 5-[4-(chlorophenoxy]pentanoic acid are added and the reaction mixture is stirred overnight at room temperature. The reaction is acidified with 1.0N HCl and extracted three times with ether. The combined organic layers are dried over Na2SO4 and concentrated in vacuo giving a yellow solid. The residue is recrystallized from ethyl acetate/hexane at -78° C. to give 150 mg (24%) of 4-hydroxy-3-[5-(4-chlorophenoxy)-1-oxopentyl]-2(5H)-thiophenone.

reactant | thiotetronic acid | 1.89 mmol, 224 mg | C1C(=O)CSC1=O | C4H4O2S
reactant | triethylamine | 2.08 mmol, 290 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.29 mmol, 440 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-(chlorophenoxy]pentanoic acid | ClC1=C(OC(CCC(=O)O)C)C=CC=C1 | C11H13ClO3
reactant | HCl | 1.0N | Cl | ClH
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 631 μmol, 77 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-hydroxy-3-[5-(4-chlorophenoxy)-1-oxopentyl]-2(5H)-thiophenone | 150 mg, 24% | OC1=C(C(SC1)=O)C(CCCCOC1=CC=C(C=C1)Cl)=O | C15H15ClO4S
